US06177419B1
41) Preparation of 6,6′-Bis(2,3-dihydroxyphenyl)-2,2′-bipyridine
To 6,6′-bis(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine (2.03 g, 50.8 mmol) dissolved in DCM (25 ml) was added boron tribromide (1M in DCM, 40.6 ml, 40.6 mmol) and the reaction stirred for 48 hours. The reaction was cooled to 0° C. and quenched by dropwise addition of methanol. The solvent was evaporated under vacuum to give the title compound as a yellow solid (100%); δH [2H6]-DMSO 8.30,(2H, d), 8.22,(2H, t), 8.10,(2H, d), 7.53,(2H, d), 6.88,(2H, d), 6.78,(2H, t).

reactant | 6,6′-bis(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | 50.8 mmol, 2.03 g | OC1=C(C=CC=C1OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)OC)O | C24H20N2O4
reactant | boron tribromide | 40.6 mmol, 1M, 40.6 ml | B(Br)(Br)Br | BBr3
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 6,6′-Bis(2,3-dihydroxyphenyl)-2,2′-bipyridine | 100% | OC1=C(C=CC=C1O)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)O)O | C22H16N2O4
